US08404649B2
Preparation 7: 4-(5-(3,5-dichloro-4-fluorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-1-naphthoic acid
To a 7:1 dioxane:water mixture (80 mL) containing methyl 4-(5-(3,5-dichloro-4-fluorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-1-naphthoate (Preparation 6, 2.9 g, 5.9 mmol) was added lithium hydroixide (430 mg, 18.0 mmol). The reaction mixture was allowed to stir at room temperature for 3 hours. Thin layer chromatography (TLC) 25:75 EtOAc:heptane showed consumption of starting material. 1N HCl (25 mL) was added. The reaction was partitioned between water (25 mL) and ethyl acetate (150 mL). The organic phase was collected, dried over Na2SO4, and concentrated under vacuum to give a solid (2.77 g, 98%). 1H NMR (CDCl3) δ ppm: 9.10 (1H), 8.82 (1H), 8.34 (1H), 7.76-7.66 (4H), 7.60 (1H), 4.32 (1H), 3.93 (1H).

reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | water | 80 mL | O | H2O
reactant | methyl 4-(5-(3,5-dichloro-4-fluorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-1-naphthoate | 5.9 mmol, 2.9 g | ClC=1C=C(C=C(C1F)Cl)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)C(=O)OC)C(F)(F)F | C22H13Cl2F4NO3
reactant | lithium | [Li] | Li
solvent | heptane | CCCCCCC | C7H16
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(5-(3,5-dichloro-4-fluorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-1-naphthoic acid | 2.77 g, 98% | ClC=1C=C(C=C(C1F)Cl)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)C(=O)O)C(F)(F)F | C21H11Cl2F4NO3
